US04795487
A solution of 2-propionyl-3-hydroxy-5-(3-acetyl-5-cyanomethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (0.67 g, 1.83 mmol) in 5% aqueous sodium hydroxide (12 ml) was refluxed for 30 min. The solution was then cooled, acidified and extracted with ethylacetate. The organic layer was washed with water, saturated aqueous sodium hydrogen carbon solution, further water then dried over anhydrous sodium sulfate. The solvent was then evaporated under reduced pressure to yield 2-propionyl-3-hydroxy-5-(3-acetyl-5-carbamoylmethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one as a colourless solid (0.49 g, 65%). The compound was characterized by proton magnetic resonance spectroscopy (CDCl3 ; δ in ppm): 1.14 (3H,t); 2.13 (3H,s); 2.22 (3H,s); 2.32 (3H,s); 2.46 (3H,s); 2.4-3.9 (7H, m); 3.61 (2H,s); 5.48 (1H,brs); 6.10 (1H,brs); 18.00 (1H,brs). The sodium hydrogen carbonate solution washings were acidified and extracted with ethylacetate. The organic layer was washed with water, dried over sodium sulfate and concentrated under reduced pressure to yield 2-[3-(4-propionyl-5-hydroxycyclohex-3-one-4- enyl)-5-acetyl-2,4,6-trimethylphenyl]acetic acid (0.11 g, 16%) as a colourless solid.

reactant | 2-propionyl-3-hydroxy-5-(3-acetyl-5-cyanomethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 1.83 mmol, 0.67 g | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C(=C1C)CC#N)C)C(C)=O)C)=O | C22H25NO4
reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
product | 2-propionyl-3-hydroxy-5-(3-acetyl-5-carbamoylmethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 0.49 g, 65% | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C(=C1C)CC(N)=O)C)C(C)=O)C)=O | C22H27NO5
